US06127378
1. (+/-)-cis-8,9-Dimethoxy-6-(4-p-toluenesulfonamidophenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine
3.5 g of (+/-)-cis-N-[2-(3,4-dimethoxyphenyl)cyclohexyl]-4-p-toluenesulfonamidobenzamide are dissolved in 100 ml of acetonitrile and 1.0 ml of phosphorus oxychloride and the solution is stirred at 50° C. for 8 h. The reaction mixture is added to 100 ml of saturated sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic phase is washed with sodium hydrogencarbonate solution and water, dried using sodium sulfate and concentrated. The residue is recrystallized from ethanol. 1.8 g (53.2% of theory) of the title compound of melting point: 122° C. (decomposition) are obtained.

reactant | (+/-)-cis-N-[2-(3,4-dimethoxyphenyl)cyclohexyl]-4-p-toluenesulfonamidobenzamide | 3.5 g | COC=1C=C(C=CC1OC)[C@@H]1[C@@H](CCCC1)NC(C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C28H32N2O5S
reactant | phosphorus oxychloride | 1.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (+/-)-cis-8,9-Dimethoxy-6-(4-p-toluenesulfonamidophenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine | COC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OC)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C28H30N2O4S
